US05439917
Preparation of 5-bromo-3-methyl-7-phenacyl-2-phenylpyrrolo[2,3-b]pyridine
5-Bromo-3-methyl-2-phenylpyrrolo[2,3-b]pyridine (0.34 g, 1.2 mmol) and phenacyl bromide (0.49 g, 2.4 mmol) in acetonitrile (20 ml) was refluxed over night to give a clear solution. The cooled solution was alkalized with sodium carbonate solution (10%) and extracted with methylene chloride. Drying over MgSO4, filtration and evaporation of solvents gave a residue which was dissolved in the minimum amount of ethanol. Crystallization was driven to completeness by keeping crystals and mother liquor in the fridge for a few days. Recrystallization by dissolving in hot ethanol and cooling in the fridge over night gave 0.35 g (73%) of yellow crystals.

reactant | 5-Bromo-3-methyl-2-phenylpyrrolo[2,3-b]pyridine | 1.2 mmol, 0.34 g | BrC=1C=C2C(=NC1)NC(=C2C)C2=CC=CC=C2 | C14H11BrN2
reactant | phenacyl bromide | 2.4 mmol, 0.49 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
product | 5-bromo-3-methyl-7-phenacyl-2-phenylpyrrolo[2,3-b]pyridine | 0.35 g, 73% | BrC=1C=C2C(N(C1)CC(=O)C1=CC=CC=C1)=NC(=C2C)C2=CC=CC=C2 | C22H17BrN2O
